US05114918
cyclo(-DTrp(CHO)-DAsp-Met(O)-DVal-Leu-)
To a solution of cyclo(-DTrp(CHO)-DAsp-Met-DVal-Leu-) (12.9 mg) which was prepared in Example 55 in acetic acid(2.0 ml) was added 35% H2O2 (5 μl). The reaction mixture was stirred at room temperature for 3 h and concentrated under reduced pressure till the volume of the mixture was reduced to ca. 1 ml. The residue was triturated with water(3 ml) to give the title compound (7.6 mg) as a pale yellow powder.

reactant | cyclo(-DTrp(CHO)-DAsp-Met-DVal-Leu-) | 12.9 mg | N1[C@H](CC2=CN(C3=CC=CC=C23)C=O)C(=O)N[C@H](CC(O)=O)C(=O)N[C@@H](CCSC)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C1=O | C32H44N6O8S
reactant | H2O2 | 5 μl | OO | H2O2
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | cyclo(-DTrp(CHO)-DAsp-Met(O)-DVal-Leu-) | 7.6 mg | N1[C@H](CC2=CN(C3=CC=CC=C23)C=O)C(=O)N[C@H](CC(O)=O)C(=O)N[C@@H](CCS(=O)C)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C1=O | C32H44N6O9S
